US07723330B2
Step C: Preparation of 3-(3-fluoro-4-methoxyphenyl)-3,4-dihydroquinazolin-2(1H)-one:
To a stirred suspension of crude N-(2-aminobenzyl)-3-fluoro-4-methoxyaniline (246 mg, 1 mmol) in 10 mL toluene at 0° C. under a drying tube was added phosgene solution (20% in toluene, 683 μL, 1.30 mmol). The cooling bath was removed and the reaction allowed to warm to room temperature over 30 minutes. The solution was then warmed to reflux. After 1 hour, the reaction was concentrated to dryness and the residue dissolved in a minimum of hot 95% EtOH. A precipitate formed which was isolated by filtration with 95% EtOH and dried to give a tan solid (65 mg, 24%). 1H NMR (400 MHz, CDCl3) δ 7.23 (m, 1H), 7.14 (m, 1H), 7.08 (m, 2H), 7.01 (m, 2H), 6.81 (d, 1H), 4.80 (s, 2H), 3.91 (s, 3H).

reactant | N-(2-aminobenzyl)-3-fluoro-4-methoxyaniline | 1 mmol, 246 mg | NC1=C(CNC2=CC(=C(C=C2)OC)F)C=CC=C1 | C14H15FN2O
reactant | phosgene | 1.30 mmol, 683 μL | C(=O)(Cl)Cl | CCl2O
reactant | EtOH | CCO | C2H6O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(3-fluoro-4-methoxyphenyl)-3,4-dihydroquinazolin-2(1H)-one | 65 mg, 24% | FC=1C=C(C=CC1OC)N1C(NC2=CC=CC=C2C1)=O | C15H13FN2O2
